US09447106B2
Step 1: di-tert-Butyl 1-(1-benzyl-4-(ethoxycarbonyl)piperidin-4-yl)hydrazine-1,2-dicarboxylate
To a solution of diisopropylamine (153 mg, 1.5 mmol) in THF (20 mL) was added n-BuLi (2.5 M, 0.6 mL) at −75° C. under N2. After 5 min, ethyl 1-benzylpiperidine-4-carboxylate (247 mg, 1.0 mmol) was added and the resulting mixture then stirred at −70° C. for 10 min, before adding di-tert-butyl azodicarboxylate (345 mg, 1.5 mmol). The reaction was stirred for 30 min, then quenched with aqueous NH4Cl (10 mL) and extracted with EA (10 mL×3). The combined organic layers were dried over Na2SO4 and concentrated to give the crude product (350 mg, 72%) as an off-white solid. MS (ESI, m/e) [M+1]+ 478.3.

reactant | diisopropylamine | 1.5 mmol, 153 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M, 0.6 mL | [Li]CCCC
reactant | ethyl 1-benzylpiperidine-4-carboxylate | 1.0 mmol, 247 mg | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)OCC | C15H21NO2
reactant | di-tert-butyl azodicarboxylate | 1.5 mmol, 345 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | di-tert-Butyl 1-(1-benzyl-4-(ethoxycarbonyl)piperidin-4-yl)hydrazine-1,2-dicarboxylate | 350 mg, 72% | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H39N3O6
